US09315458B2
D) 4-(chloromethyl)-2-fluoro-N-methylbenzamide
To a solution of 2-fluoro-4-(hydroxymethyl)-N-methylbenzamide (2.11 g) in THF (46.1 mL) was added dropwise thionyl chloride (1.01 mL) under ice-cooling, and the mixture was stirred overnight at room temperature. To the reaction solution was added saturated aqueous sodium bicarbonate, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography (ethyl acetate/hexane). The objective fractions were collected, and washed with diisopropyl ether, and the precipitate was collected by filtration. The filtrate was concentrated, and the residue was washed with diisopropyl ether. This procedure was repeated three times to give the title compound (0.96 g).

reactant | 2-fluoro-4-(hydroxymethyl)-N-methylbenzamide | 2.11 g | FC1=C(C(=O)NC)C=CC(=C1)CO | C9H10FNO2
reactant | thionyl chloride | 1.01 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 46.1 mL | C1CCOC1 | C4H8O
product | 4-(chloromethyl)-2-fluoro-N-methylbenzamide | 0.96 g | ClCC1=CC(=C(C(=O)NC)C=C1)F | C9H9ClFNO
